US06548511B1
In accordance with the method of Example 25, chlorination of 2-{2,5-bis(trifluoromethyl)phenyl}amino-3-cyclohexyl-6-trifluoromethyl-4(3H)-pyrimidinone (80 mg, 0.18 mmol) was carried out using sulfuryl chloride to obtain white solid of 2-{2,5-bis(trifluoromethyl)phenyl}amino-5-chloro-3-cyclohexyl-6-trifluoromethyl-4(3H)-pyrimidinone [Compound No. 65].

reactant | 2-{2,5-bis(trifluoromethyl)phenyl}amino-3-cyclohexyl-6-trifluoromethyl-4(3H)-pyrimidinone | 0.18 mmol, 80 mg | FC(C1=C(C=C(C=C1)C(F)(F)F)NC1=NC(=CC(N1C1CCCCC1)=O)C(F)(F)F)(F)F | C19H16F9N3O
reactant | sulfuryl chloride | S(=O)(=O)(Cl)Cl | Cl2O2S
product | 2-{2,5-bis(trifluoromethyl)phenyl}amino-5-chloro-3-cyclohexyl-6-trifluoromethyl-4(3H)-pyrimidinone | Yield: 93% | FC(C1=C(C=C(C=C1)C(F)(F)F)NC1=NC(=C(C(N1C1CCCCC1)=O)Cl)C(F)(F)F)(F)F | C19H15ClF9N3O
